US04322370
A solution of 4-(4-chlorophenyl)-2,2-dimethyl-7-(2-dimethylaminoethoxy)-1-tetralone (13.6 g) in dry ether (75 ml) was added to a stirred suspension of aluminium lithium hydride (1.3 g) in dry ether (75 ml) over 40 min. The mixture was heated under reflux a further 45 min., cooled, a few drops of dilute sodium hydroxide solution added, and the ether solution decanted off. The remaining pasty mass was extracted with hot ether, and the combined ether solutions were dried (MgSO4). Removal of the solvent gave 4-(4-chlorophenyl)-1-hydroxy-2,2-dimethyl-7-(2-dimethylaminoethoxy)tetralin as a white foam. (13.3 g, 98%). The hydrochloride salt formed white prisms from ethanol-ether, m.p. 235°-7°.

reactant | 4-(4-chlorophenyl)-2,2-dimethyl-7-(2-dimethylaminoethoxy)-1-tetralone | 13.6 g | ClC1=CC=C(C=C1)C1CC(C(C2=CC(=CC=C12)OCCN(C)C)=O)(C)C | C22H26ClNO2
reactant | aluminium lithium hydride | 1.3 g | [H-].[Li+].[Al+3].[H-].[H-].[H-]
solvent | ether | 75 ml | CCOCC | C4H10O
solvent | ether | 75 ml | CCOCC | C4H10O
catalyst | sodium hydroxide | a few drops | [OH-].[Na+]
product | 4-(4-chlorophenyl)-1-hydroxy-2,2-dimethyl-7-(2-dimethylaminoethoxy)tetralin | ClC1=CC=C(C=C1)C1CC(C(C2=CC(=CC=C12)OCCN(C)C)O)(C)C | C22H28ClNO2
